US06350870B2
Lorazepam ethanol solvate (100 g) was suspended in a 1:1 mixture of dichloromethane and toluene (600 ml). The suspension was then heated to 25 ° C. for one hour and then cooled to 15° C. The suspension was filtered to recover the lorazepam crystals. The crystals were washed with toluene (20 ml) and dried at 50° C. under 65 mm Hg vacuum for two hours to give crystalline lorazepam (85 g, 90%)

reactant | Lorazepam ethanol | 100 g | C=1C=CC(=C(C1)C2=NC(C(=O)NC3=C2C=C(C=C3)Cl)O)Cl.C(C)O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | lorazepam | 85 g, 90% | C=1C=CC(=C(C1)C2=NC(C(=O)NC3=C2C=C(C=C3)Cl)O)Cl | C15H10Cl2N2O2
